US07772244B2
tert-Butyl 2-((1-benzylpiperidin-4-ylamino)methyl)-6-fluorophenylcarbamate
To a solution of tert-butyl 2-fluoro-6-formylphenylcarbamate (48.0 g, 201 mmol) in ethanol (100 mL) was added 4-amino-1-benzylpiperidine (41.0 mL, 201 mmol). The solution was concentrated in vacuo, and then water was removed by twice dissolving the residue in toluene and concentrating the solution in vacuo. The resulting oil was dissolved in tetrahydrofuran (250 mL), cooled to 0° C., and treated with sodium borohydride (3.80 g, 100 mmol). The ice bath was removed and stirring continued overnight. The reaction was treated with ethanol (250 mL), an additional portion of sodium borohydride (2.00 g, 53 mmol), and an additional portion of 4-amino-1-benzylpiperidine (2.0 mL, 9.8 mmol). The resulting solution was stirred for 4 h at room temperature. The reaction was cooled to 0° C., quenched by addition of saturated ammonium chloride, filtered to remove solids, and concentrated to remove most (but not all) of the tetrahydrofuran. The reaction was extracted with diethyl ether (2×). The ethereal layer was washed with water (3×), then brine, dried over magnesium sulfate, and concentrated to give 83 g (100%) as a viscous yellow oil which was pure enough to use in the following step. Mass spec.: 414.51 (MH)+.

reactant | tert-butyl 2-fluoro-6-formylphenylcarbamate | 201 mmol, 48.0 g | FC1=C(C(=CC=C1)C=O)NC(OC(C)(C)C)=O | C12H14FNO3
reactant | 4-amino-1-benzylpiperidine | 201 mmol, 41.0 mL | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | sodium borohydride | 100 mmol, 3.80 g | [BH4-].[Na+]
reactant | sodium borohydride | 53 mmol, 2.00 g | [BH4-].[Na+]
reactant | 4-amino-1-benzylpiperidine | 9.8 mmol, 2.0 mL | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | tert-Butyl 2-((1-benzylpiperidin-4-ylamino)methyl)-6-fluorophenylcarbamate | C(C1=CC=CC=C1)N1CCC(CC1)NCC1=C(C(=CC=C1)F)NC(OC(C)(C)C)=O | C24H32FN3O2
